US04788196
A mixture of 4-chloro-2-methylpyridine nitrate (5.00 g), piperazine (9.00 g), anhydrous sodium bicarbonate (6.60 g) and amyl alcohol (60 ml) was heated under reflux for 18 hours. The mixture was cooled and water was added to dissolve inorganic material. The organic layer was washed four times with brine and all the aqueous extracts were combined and extracted with ethyl acetate. The organic layers were combined, dried over sodium sulphate and evaporated. The residue was crystallised from ethyl acetate/hexane to give 1-(2-methylpyrid-4-yl)piperazine (2.80 g), m.p. 93°-94° C.

reactant | 4-chloro-2-methylpyridine nitrate | 5.00 g | [N+](=O)(O)[O-].ClC1=CC(=NC=C1)C
reactant | piperazine | 9.00 g | N1CCNCC1 | C4H10N2
reactant | sodium bicarbonate | 6.60 g | C([O-])(O)=O.[Na+]
reactant | amyl alcohol | 60 ml | C(CCCC)O | C5H12O
solvent | water | O | H2O
product | 1-(2-methylpyrid-4-yl)piperazine | 2.80 g | CC1=NC=CC(=C1)N1CCNCC1 | C10H15N3
